US09107916B2
D. 2-[5-[(4-fluorophenyl)methoxy]-4-methylpyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-4-methylpyrazol-1-yl)pyridine-4-carbonitrile and 4-fluorobenzyl alcohol according to the procedure for the preparation of Example 39, part C. 1H NMR (300 MHz, CDCl3): δ 1.91 (3H, s), 5.14 (2H, s), 7.26 (2H, s), 7.33-7.37 (3H, m), 7.46 (1H, s), 7.99 (1H, s), 8.62 (1H, d, J=5.1 Hz). [M+H] Calc'd for C17H13FN4O, 309. Found, 309.

reactant | 2-(5-hydroxy-4-methylpyrazol-1-yl)pyridine-4-carbonitrile | OC1=C(C=NN1C1=NC=CC(=C1)C#N)C | C10H8N4O
reactant | 4-fluorobenzyl alcohol | FC1=CC=C(CO)C=C1 | C7H7FO
product | 2-[5-[(4-fluorophenyl)methoxy]-4-methylpyrazol-1-yl]pyridine-4-carbonitrile | FC1=CC=C(C=C1)COC1=C(C=NN1C1=NC=CC(=C1)C#N)C | C17H13FN4O
